2159-03-01 05:52:00 Physician Resident Progress Note
Chief Complaint:
   61yo M with h/o spontaneous PTX, COPD, bullous emphysema admitted with
   acute COPD flare up and hypercarbic respiratory failure, also cor
   pulmonale & pulmonary edema
   24 Hour Events:
   - cta chest no large clot on prelim review
   - mental status improved
   - started dig
   - no acute new complaints this a.m.
   - called out to floor
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2159-2-28**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-2-28**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-1**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 93 (85 - 110) bpm
   BP: 98/66(73) {78/56(63) - 109/77(82)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,356 mL
                                                                     15 mL
   PO:
                                                                  1,320 mL
             TF:
   IVF:
                                                                     36 mL
                                                                     15 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                    335 mL
   Urine:
                                                                  2,465 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,109 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///42/
   Physical Examination
   General: A& O x3, NAD, thin elderly male, interactive and mood
   appropriate
   CARDIAC: S1/S2 reg, loud S2, RRR. No murmurs, rubs or gallops
   LUNGS: mild bibasilar crackles, slight end expiratory wheezes
   ABD: nontender, nondistended, +NABS
   NEURO: CNs [**1-5**] grossly in tact
   EXT: 2+ pedal pulses, 1+ edema bilaterally below mid calf, wrapped
   dressings over both LE for burn wounds
   SKIN : wounds over RLE & LLE dressed, c/d/i
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Labs / Radiology
   185 K/uL
   13.6 g/dL
   94 mg/dL
   0.6 mg/dL
   42 mEq/L
   4.8 mEq/L
   29 mg/dL
   91 mEq/L
   136 mEq/L
   42.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2159-2-28**]  05:00 AM
                             [**2159-3-1**]  02:04 AM
   WBC
   7.5
   8.4
   Hct
   46.8
   42.3
   Plt
   177
   185
   Cr
   0.8
   0.6
   Glucose
   94
   94
   Other labs: PT / PTT / INR:11.3/24.8/0.9, Differential-Neuts:90.8 %,
   Lymph:4.6 %, Mono:3.7 %, Eos:0.7 %, Lactic Acid:1.4 mmol/L, Ca++:8.8
   mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
   - recent skin burns from space heater over his lower extremities
   - continue current wound care regimen
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   61 yo M with severe bullous emphysema and cor pulmonale who is
   transferred for Bipap to manage hypercarbic respiratory failure.
   Lilkely episode of PND and Mentation worse after hyperoxia
   # Hypercarbic respiratory failure: likely acute on chronic hypercarbic
   respiratory failure, may be a component of pulmonary edema [**12-26**] cor
   pulmonale
    - CO2 improving after bipap, has been maintaining mental status,
   oxygenation on 2L NC
    - will continue COPD management with azithro, prednisone , nebs
    - repeat CTA shows no PE on prelim read, f/u final read CTA
    - aim SaO2 86-88%
   - smoking cessation counseling
   # Cor pulmonary: now L diastolic heart failure in setting of right
   heart failure:, effusions noted. Started on digoxin on [**2-28**].
    - cont diuresis with lasix gtt to which he is responding slowly
 goal
   1-2L out
    - continue digoxin
    - may need RHC with NO/sildenafil challenge once appropriately
   diuresed; cardiology follow-up needed
   # Smoking cessation:
    - will continue to offer nicotine patch
   # LE burns
   - continue silver sulfadiazine cream
   # Goals of care: ongoing discussions with family regarding follow-up
   after hospitalization
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-2-28**] 05:15 AM
   18 Gauge - [**2159-2-28**] 05:15 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: on short steroid taper
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU but called out to medical floor

2159-03-01 10:33:00 Physician Attending Progress Note
Chief Complaint:  Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   This is a 61 yo M with bullous emphysema who was admitted to [**Hospital1 19**] for
   COPD exacerbation and transferred to ICU after developing hypercarbic
   respiratory failure on the medicine floor. He improved to baseline
   while on bipap.
   24 Hour Events:
   CTA to rule out PE was negative for PE
   Digoxin iniitated for right heart failure
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2159-2-28**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-3-1**] 08:32 AM
   Other medications:
   spiriva
   prednisone 40 qday
   silvadene
   azithro 250
   asa 325
   digoxin 0.125 qday
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-1**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 89 (85 - 110) bpm
   BP: 105/76(81) {86/56(65) - 105/77(81)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,356 mL
                                                                     28 mL
   PO:
                                                                  1,320 mL
             TF:
   IVF:
                                                                     36 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                    610 mL
   Urine:
                                                                  2,465 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,109 mL
                                                                   -582 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///42/
   Physical Examination
   General Appearance: Thin, cacbectic
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: ), prolonged exp phase
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   13.6 g/dL
   185 K/uL
   94 mg/dL
   0.6 mg/dL
   42 mEq/L
   4.8 mEq/L
   29 mg/dL
   91 mEq/L
   136 mEq/L
   42.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2159-2-28**]  05:00 AM
                             [**2159-3-1**]  02:04 AM
   WBC
   7.5
   8.4
   Hct
   46.8
   42.3
   Plt
   177
   185
   Cr
   0.8
   0.6
   Glucose
   94
   94
   Other labs: PT / PTT / INR:11.3/24.8/0.9, Differential-Neuts:90.8 %,
   Lymph:4.6 %, Mono:3.7 %, Eos:0.7 %, Lactic Acid:1.4 mmol/L, Ca++:8.8
   mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   61 YO with COPD, presents with COPD exacerbation and cop pulmonale
   1. Respiratory failure: improving after bipap, and now tolerating
   diuresis
    - aim SaO2: > 86-88%
    - cont prednisone 40 mg
    - cont atrovent/albuterol/spiriva
   2. Cor pulmonale
    - cont diuresis with lasix aim TBB -2L as bp allows
    - cont digoxin
   3. LE burns [**12-26**] space heater: silvadene creams
   4. FEN regular diet
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2159-2-28**] 05:15 AM
   18 Gauge - [**2159-2-28**] 05:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2159-03-02 05:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - added PPI
   - slight desats to low 80s with exertion and moving in bed / short
   lived, no med changes
   - diuresis: neg 1.1L at MN so lasix drip same
   - mental status still improving
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2159-2-28**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-3-1**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-2**] 05:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 89 (85 - 99) bpm
   BP: 102/67(74) {91/61(68) - 114/77(86)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    959 mL
                                                                     16 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    119 mL
                                                                     16 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                    580 mL
   Urine:
                                                                  2,060 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,101 mL
                                                                   -564 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///44/
   Physical Examination
   Gen: Pleasant, awake, alert, Aox3
   HEENT: JVP 12
   Lungs: decreased BS at bases
   Abd: Soft, NT
   Ext: Decreased LE edema, 2+ pitting to mid calf
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   185 K/uL
   13.6 g/dL
   153 mg/dL
   0.6 mg/dL
   44 mEq/L
   4.4 mEq/L
   29 mg/dL
   90 mEq/L
   137 mEq/L
   42.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2159-2-28**]  05:00 AM
                             [**2159-3-1**]  02:04 AM
                             [**2159-3-1**]  01:49 PM
   WBC
   7.5
   8.4
   Hct
   46.8
   42.3
   Plt
   177
   185
   Cr
   0.8
   0.6
   0.6
   Glucose
   94
   94
   153
   Other labs: PT / PTT / INR:11.3/24.8/0.9, Differential-Neuts:90.8 %,
   Lymph:4.6 %, Mono:3.7 %, Eos:0.7 %, Lactic Acid:1.4 mmol/L, Ca++:7.6
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Final CT: no PE, just severe bullous disease
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   61 yo M with severe bullous emphysema and cor pulmonale who is
   transferred to MICU for Bipap to manage hypercarbic respiratory
   failure. Lilkely episode of PND and Mentation worse after hyperoxia.
   Has not required BIPAP since admission.
   # Hypercarbic respiratory failure: likely acute on chronic hypercarbic
   respiratory failure, likely component of pulmonary edema [**12-26**] cor
   pulmonale improving with gentle diuresis
    - CO2 improving after bipap, has been maintaining mental status,
   oxygenation on 1-2L NC
    - will continue COPD management with azithro, prednisone , nebs
    - aim SaO2 86-88% - **do not hyperoxygenate***
   - smoking cessation counseling
   # Cor pulmonary: now L diastolic heart failure in setting of right
   heart failure:, effusions noted. Started on digoxin on [**2-28**]. Has
   diuresed 3L during ICU stay on lasix gtt
    - transition to IV lasix
 goal 1-2L out
    - continue digoxin
    - may need RHC with NO/sildenafil challenge once appropriately
   diuresed; cardiology follow-up needed as outpatient. Pulmonary will
   follow on floor
   # Smoking cessation:
    - will continue to offer nicotine patch
   # LE burns
   - continue silver sulfadiazine cream
   # Goals of care: ongoing discussions with family regarding follow-up
   after hospitalization
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-2-28**] 05:15 AM
   20 Gauge - [**2159-3-1**] 04:20 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: [**First Name8 (NamePattern2) 129**] [**Last Name (NamePattern1) 14454**] [**Telephone/Fax (1) 14455**] son in law
   Code status: Full code
   Disposition: ICU but if maintains pressure on bolus IV lasix, can call
   out to floor

2159-03-02 12:30:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo M bullous emphysema who presents with progressive sob and
   respiratory failure, c/b developing hypercarbic respiratory failure on
   medicine floor.  Likely [**12-26**] COPD and cor pulmonale
   24 Hour Events:
   overnight SaO2 82-90% on 0.5L O2, improved when placed on 2L O2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2159-2-28**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-3-1**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-2**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 96 (82 - 99) bpm
   BP: 108/68(77) {89/55(64) - 114/77(86)} mmHg
   RR: 18 (12 - 28) insp/min
   SpO2: 85%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,199 mL
                                                                    397 mL
   PO:
                                                                  1,080 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    119 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                  1,500 mL
   Urine:
                                                                  2,060 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -861 mL
                                                                 -1,103 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 85%
   ABG: ///49/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   14.0 g/dL
   190 K/uL
   83 mg/dL
   0.6 mg/dL
   49 mEq/L
   4.3 mEq/L
   28 mg/dL
   86 mEq/L
   136 mEq/L
   43.5 %
   6.5 K/uL
        [image002.jpg]
                             [**2159-2-28**]  05:00 AM
                             [**2159-3-1**]  02:04 AM
                             [**2159-3-1**]  01:49 PM
                             [**2159-3-2**]  04:33 AM
   WBC
   7.5
   8.4
   6.5
   Hct
   46.8
   42.3
   43.5
   Plt
   177
   185
   190
   Cr
   0.8
   0.6
   0.6
   0.6
   Glucose
   94
   94
   153
   83
   Other labs: PT / PTT / INR:10.7/25.6/0.9, Differential-Neuts:90.8 %,
   Lymph:4.6 %, Mono:3.7 %, Eos:0.7 %, Lactic Acid:1.4 mmol/L, Ca++:8.4
   mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   61 yo M bullous emphysema who presents with progressive sob and
   respiratory failure, c/b developing hypercarbic respiratory failure on
   medicine floor.  Likely [**12-26**] COPD and cor pulmonale
   1. Hypercarbic respiratory failure: no need for BiPAP since admission,
   SaO2 82-90%, stable between 86-88%; likely COPD and L heart failure [**12-26**]
   RHF
    - aim SaO2 86-88%
    - Cont diuresis (1-2L/day): wll start IV lasix and d/c gtt
    - cont digoxin
    - pulmonary service will continue to follow on floor
    - may benefit from repeat echo, RHC and NO trial when better diuresed
   2. Smoking: nicotine patch
   3. Burns: silvadene patch
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-2-28**] 05:15 AM
   20 Gauge - [**2159-3-1**] 04:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2159-03-03 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - no [**Hospital Ward Name 289**] [**1-27**] beds to tolerate lasix gtt, so switched to 40IV lasix
   [**Hospital1 7**], put out 5L in ICU in total, call out back to medical floor
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2159-2-28**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-3-2**] 08:24 PM
   Furosemide (Lasix) - [**2159-3-3**] 02:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-3**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 87 (82 - 101) bpm
   BP: 99/64(72) {91/55(64) - 118/78(87)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                    901 mL
                  PO:
                                                                    860 mL
                  TF:
   IVF:
                                                                     41 mL
   Blood products:
   Total out:
                                                                  3,845 mL
                                                                  1,080 mL
   Urine:
                                                                  3,845 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,944 mL
                                                                 -1,080 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///50/
   Physical Examination
   GEN: AOx3, alert, appropriate
   HEENT: JVP 12
   Lung: decreased BS at bases, otherwise clear
   CV: RR, no murmurs
   LE: 2 burn ulcers, LE edema improved
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   190 K/uL
   14.0 g/dL
   94 mg/dL
   0.6 mg/dL
   50 mEq/L
   4.6 mEq/L
   26 mg/dL
   84 mEq/L
   136 mEq/L
   43.5 %
   6.5 K/uL
        [image002.jpg]
                             [**2159-2-28**]  05:00 AM
                             [**2159-3-1**]  02:04 AM
                             [**2159-3-1**]  01:49 PM
                             [**2159-3-2**]  04:33 AM
                             [**2159-3-2**]  03:15 PM
   WBC
   7.5
   8.4
   6.5
   Hct
   46.8
   42.3
   43.5
   Plt
   177
   185
   190
   Cr
   0.8
   0.6
   0.6
   0.6
   0.6
   Glucose
   94
   94
   153
   83
   94
   Other labs: PT / PTT / INR:10.7/25.6/0.9, Differential-Neuts:90.8 %,
   Lymph:4.6 %, Mono:3.7 %, Eos:0.7 %, Lactic Acid:1.4 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   61 yo M with severe bullous emphysema and cor pulmonale who is
   transferred to MICU for Bipap to manage hypercarbic respiratory failure
   [**12-26**] PND and Mentation worse after hyperoxia. Has not required BIPAP
   since admission and has been diuresing well on IV lasix boluses.
   # Hypercarbic respiratory failure: likely acute on chronic hypercarbic
   respiratory failure, likely component of pulmonary edema [**12-26**] cor
   pulmonale improving with gentle diuresis
    - CO2 improving after bipap, has been maintaining mental status,
   oxygenation on 1-2L NC
    - will continue COPD management with azithro (day #[**2-26**]), prednisone ,
   nebs. Today is day#4 of 40mg prednisone, can start tapering tomorrow
    - aim SaO2 86-88% - **do not hyperoxygenate***
   - smoking cessation counseling
   # Cor pulmonary: now L diastolic heart failure in setting of right
   heart failure:, effusions noted. Started on digoxin on [**2-28**]. Has
   diuresed 5L during ICU stay on lasix gtt. BP tolerated 40IV lasix for
   diuresis yesterday
    - continue IV lasix
 goal 2L out
    - continue digoxin
    - may need RHC with NO/sildenafil challenge once appropriately
   diuresed; cardiology follow-up needed as outpatient. Pulmonary will
   follow on floor.
   # Smoking cessation:
    - will continue to offer nicotine patch
   # LE burns
   - continue silver sulfadiazine cream
   # Goals of care: ongoing discussions with family regarding follow-up
   after hospitalization
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-2-28**] 05:15 AM
   20 Gauge - [**2159-3-1**] 04:20 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI while on steroids
   VAP:
   Comments:
   Communication:  Comments: [**First Name8 (NamePattern2) 129**] [**Last Name (NamePattern1) 14454**] [**Telephone/Fax (1) 14455**] son in law
   Code status: Full code
   Disposition:  Callout back to medical floor, prior team
   ------ Protected Section ------
   Will check ABG for pH prior to transfer. Can consider changing to PO
   lasix today, running him less negative.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 201**], MD
   on:[**2159-3-3**] 09:21 ------
   MICU Attending:
   Chart reviewed, patient interviewed and examined.  Case discussed
   extensively with MICU Resident and MICU Fellow.  Agree with note as
   outlined above per Dr. [**First Name (STitle) 201**].  Briefly, 61 yom severe COPD and cor
   pulmonale, transferred to MICU for respiratory distress.  Treated for
   COPD exacerbation and right heart failure.  Continued clinical
   improvement.  Physical exam improved.  Continue current plan, including
   net diuresis.  Plan transfer to medical [**Hospital1 **].
   Total time providing MICU care= 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2159-3-3**] 17:47 ------

2159-03-03 09:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory insuffciency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 y/o man with severe COPD, cor pulmonale , transfered to MICU with
   hypercapnic respiratory failure. On and rapidly weaned off Bipap.
   24 Hour Events:
   Changed to bolus lasix
   3L negative yesterday
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2159-2-28**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2159-3-2**] 08:24 PM
   Furosemide (Lasix) - [**2159-3-3**] 02:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Edema
   Respiratory: decreased dyspnea
   Gastrointestinal: wnl
   Neurologic: a and O x 3
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-3-3**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**60**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 91 (84 - 101) bpm
   BP: 104/65(74) {91/61(69) - 118/78(87)} mmHg
   RR: 15 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                    901 mL
                  PO:
                                                                    860 mL
                  TF:
   IVF:
                                                                     41 mL
   Blood products:
   Total out:
                                                                  3,845 mL
                                                                  1,340 mL
   Urine:
                                                                  3,845 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,944 mL
                                                                 -1,340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///50/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   14.3 g/dL
   199 K/uL
   83 mg/dL
   0.5 mg/dL
   50 mEq/L
   3.6 mEq/L
   23 mg/dL
   84 mEq/L
   138 mEq/L
   43.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2159-2-28**]  05:00 AM
                             [**2159-3-1**]  02:04 AM
                             [**2159-3-1**]  01:49 PM
                             [**2159-3-2**]  04:33 AM
                             [**2159-3-2**]  03:15 PM
                             [**2159-3-3**]  06:05 AM
   WBC
   7.5
   8.4
   6.5
   8.1
   Hct
   46.8
   42.3
   43.5
   43.5
   Plt
   177
   185
   190
   199
   Cr
   0.8
   0.6
   0.6
   0.6
   0.6
   0.5
   Glucose
   94
   94
   153
   83
   94
   83
   Other labs: PT / PTT / INR:10.7/25.6/0.9, Differential-Neuts:90.8 %,
   Lymph:4.6 %, Mono:3.7 %, Eos:0.7 %, Lactic Acid:1.4 mmol/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Please see resident note for details, I agree with the assesment and
   plan as outline there. Would add emphasize:
   61 y/o man a/w AECOPD and hypercarbin respiratory failure. On
   azithromycin and and prednisone. C/B cor pulmonale with ? left sided
   dysfunction as well. Okay to transfer to floor today. Bicarb up since
   admit in the setting of diuresis, will check abg but also hold off on
   addl diuresis. TBB even today.
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2159-2-28**] 05:15 AM
   20 Gauge - [**2159-3-1**] 04:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes